US06423704B1
Treat a stirred solution of 4-(1-vinyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.97 g, 2.8 mmol) and methanol (20 mL) at 0° C. with 57% hydroiodic acid (467 microliters, 6.21 mmol) solution. Stir at room temperatue for two hours, add 57% hydroiodic acid (934 microliters) and reflux for 30 minutes. Cool to room temperature, concentrate in vacuo to approximately 5 mL final volume, and add ether (total of 200 mL) to afford a tacky solid. Stir the suspension overnight, collect the solid by filtration under nitrogen and dry in vacuo for two hours. Dry in vacuo (0.2 Torr) at room temperature overnight to afford 1.33 g of 2-[1,4]diazepan-1-yl-1-vinyl-1H-benzoimidazole dihydroiodide.

reactant | 4-(1-vinyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 2.8 mmol, 0.97 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1C=C)C=CC=C2 | C19H26N4O2
reactant | hydroiodic acid | 6.21 mmol, 467 microliters | I | HI
reactant | hydroiodic acid | 934 microliters | I | HI
solvent | methanol | 20 mL | CO | CH4O
product | 2-[1,4]diazepan-1-yl-1-vinyl-1H-benzoimidazole dihydroiodide | 1.33 g | I.I.N1(CCNCCC1)C1=NC2=C(N1C=C)C=CC=C2 | InChI=1S/C14H18N4.2HI/c1-2-18-13-7-4-3-6-12(13)16-14(18)17-10-5-8-15-9-11-17;;/h2-4,6-7,15H,1,5,8-11H2;2*1H
